US05380721
To a mixture of 2-methyl-4-(4-aminophenyl)-1-(2H)-phthalazinone (8.77 g, 34.9 mmol), CH2Cl2 (300 mL) and pyridine (3.11 mL, 38.4 mmol) at 0° C. was added dropwise methanesulfonyl chloride (2.97 mL, 38.4 mmol) in CH2Cl2 (20 mL) over 15 minutes. The reaction mixture was warmed to room temperature and stirred for 12 hours. Additional pyridine (0.5 mL) and methanesulfonyl chloride (0.5 mL) was added and the mixture was stirred as such for 2 hours. The reaction mixture was poured into 2N HCl, the organic layer was separated and then washed with water and dried over Na2SO4. The solvent was removed in vacuo and the residue was azeotroped with toluene and CH2Cl2 to afford 9.0 g (78%) of 2-methyl-4-(4-methylsulfonylaminophenyl)-1-(2H)-phthalazinone as a yellow solid.

reactant | 2-methyl-4-(4-aminophenyl)-1-(2H)-phthalazinone | 34.9 mmol, 8.77 g | CN1C(C2=CC=CC=C2C(=N1)C1=CC=C(C=C1)N)=O | C15H13N3O
reactant | pyridine | 38.4 mmol, 3.11 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 38.4 mmol, 2.97 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.5 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 2N | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-4-(4-methylsulfonylaminophenyl)-1-(2H)-phthalazinone | 9.0 g, 78% | CN1C(C2=CC=CC=C2C(=N1)C1=CC=C(C=C1)NS(=O)(=O)C)=O | C16H15N3O3S
